US04289772
4-(2-Hydroxypropyl)pyridine hydrochloride (11 g) in glacial acetic acid (110 ml) was hydrogenated at 50°/50 p.s.i. over a platinum oxide catalyst until uptake of hydrogen ceased. The catalyst was removed by filtration and the filtrate was evaporated to dryness in vacuo. The residue was triturated with ether (100 ml) and the resultant solid was recrystallized from ethyl acetate-isopropyl alcohol (1:1) to give 4-(2-acetoxypropyl)piperidine hydrochloride (1 g) m.p. 188°-191°.

reactant | 4-(2-Hydroxypropyl)pyridine hydrochloride | 11 g | Cl.OC(CC1=CC=NC=C1)C
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 4-(2-acetoxypropyl)piperidine hydrochloride | 1 g | Cl.C(C)(=O)OC(CC1CCNCC1)C | InChI=1S/C10H19NO2.ClH/c1-8(13-9(2)12)7-10-3-5-11-6-4-10;/h8,10-11H,3-7H2,1-2H3;1H
